US05750549
2-Hydroxy-3-carboxy-5-nitropyridine
The nitration of 2-hydroxy-3-carboxypyridine was performed as taught by Winn et al J. Med. Chem, (36) 2676-2688 (1993). In a 250 mL round bottom flask fitted with a stirrer bar and cooling bath was added 150 mL of concentrated sulfuric acid and 17 g of starting material. Then 10 ml of concentrated nitric acid (67%) was added dropwise to the solution over a period of 20 minutes, keeping the reaction temperature at <8° C. The reaction mixture was warmed to room temperature and stirred overnight. The next day the reaction was heated to 70° C. for 90 minutes. The reaction mixture was cooled to 25° C. and poured the reaction mixture into 1 liter of ice/water. The product, which precipitated out of solution, was recrystallized from ethanol. Recovered 18 g of product. Yield=65%.

reactant | 2-hydroxy-3-carboxypyridine | OC1=NC=CC=C1C(=O)O | C6H5NO3
reactant | sulfuric acid | 150 mL | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 10 ml | [N+](=O)(O)[O-] | HNO3
product | 2-Hydroxy-3-carboxy-5-nitropyridine | Yield=65% | OC1=NC=C(C=C1C(=O)O)[N+](=O)[O-] | C6H4N2O5
